US07504411B2
To a solution of 3-(4-cyclohexylaminophenyl)-piperidine dihydrochloride salt (1.0 g, 3.02 mmol) and triethylamine (1.5 g, 14.8 mmol) in tetrahydrofuran (20 mL) was added 2-chloro-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one (0.64 g, 2.89 mmol) portionwise. After stirring for 12 h, the resulting suspension was partitioned between chloroform and 1N sodium hydroxide. The aqueous layer was extracted with chloroform. The combined organic layer was washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel chromatography eluting 5-10% methanol in chloroform to furnish 2-(3-(4-cyclohexylaminophenyl)-piperidin-1-yl)-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one (1.23 g, 2.77 mmol, 96%) as white crystals.

reactant | 3-(4-cyclohexylaminophenyl)-piperidine dihydrochloride salt | 3.02 mmol, 1.0 g | Cl.Cl.C1(CCCCC1)NC1=CC=C(C=C1)C1CNCCC1
reactant | triethylamine | 14.8 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one | 2.89 mmol, 0.64 g | ClC1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C10H8ClN3O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(3-(4-cyclohexylaminophenyl)-piperidin-1-yl)-3-methyl-6-(pyridin-4-yl)-3H-pyrimidin-4-one | 2.77 mmol, 1.23 g, 96% | C1(CCCCC1)NC1=CC=C(C=C1)C1CN(CCC1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C27H33N5O
